US06989392B2
2-((4-((2-aminoquinolin-8-yl)oxy)pentyl)oxy)benzamide
The title compound was prepared according to the procedure described in Example 92 substituting salicylamide for methyl 3-hydroxybenzoate. 1H NMR (500 MHz, DMSO-d6) δ ppm 7.76 (dd, 1H), 7.35–7.58 (m, 6H), 7.10 (d, 1H), 7.01 (m, 1H), 4.87 (m, 1H), 4.18 (m, 2H), 1.84–2.05 (m, 4H), 1.40 (d, 3H); MS (DCI/NH3) m/z 366 [M+H]+.

reactant | salicylamide | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | NH3 | N | H3N
product | 2-((4-((2-aminoquinolin-8-yl)oxy)pentyl)oxy)benzamide | NC1=NC2=C(C=CC=C2C=C1)OC(CCCOC1=C(C(=O)N)C=CC=C1)C | C21H23N3O3
